US05187156
To a solution of Boc-Gln-OH (2.10 g), HCl.H-D-Trp(CHO)-Phe-OBzl (4.70 g) and HOBT (1.15 g) in a mixed solvent of methylene chloride (60 ml) and DMF (10 ml), was added WSC (1.41 g) under ice cooling. The reaction mixture was stirred for 1.5 hours at the same temperature and for additional 1.5 hours at room temperature and concentrated under reduced pressure. Water was added to the residue and the resulting precipitates were collected and washed successively with water, diluted sodium hydrogencarbonate solution and water. After drying, the crude product (5.84 g) was stirred in hot ethyl acetate (60 ml) in water bath. After cooling, the precipitates were collected by filtration and dried to give Boc-Gln-D-Trp(CHO)-Phe-OBzl (5.70 g).

reactant | Boc-Gln-OH | 2.10 g | N([C@@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
reactant | HCl | Cl | ClH
reactant | H-D-Trp(CHO)-Phe-OBzl | 4.70 g | N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H27N3O4
reactant | HOBT | 1.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 1.41 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | Boc-Gln-D-Trp(CHO)-Phe-OBzl | 5.70 g | N([C@@H](CCC(N)=O)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C38H43N5O8
